US08022209B2
1-Methyl-4-(6-thiophen-2-yl-pyridin-2-yl)-piperazine
To a vial was added 1-(6-chloro-pyridin-2-yl)-4-methyl-piperazine (27 mg, 0.13 mmol), Pd2(dba)3 (14 mg), 2-(di-t-butylphosphino)biphenyl (18 mg), 2-thienyltributylstannane (51 mg, 0.15 mmol), dioxane (1 mL) and CsF (39 mg, 0.26 mmol). The resulting mixture was heated at 100° C. for 24 hrs. The resulting mixture was extracted with EtOAc. The organic layer was dried and concentrated, and the residue was purified by preparative TLC (hexanes/EtOAc) to yield the title compound as a solid.

reactant | 1-(6-chloro-pyridin-2-yl)-4-methyl-piperazine | 0.13 mmol, 27 mg | ClC1=CC=CC(=N1)N1CCN(CC1)C | C10H14ClN3
reactant | 2-(di-t-butylphosphino)biphenyl | 18 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 2-thienyltributylstannane | 0.15 mmol, 51 mg | S1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | CsF | 0.26 mmol, 39 mg | [F-].[Cs+]
catalyst | Pd2(dba)3 | 14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-Methyl-4-(6-thiophen-2-yl-pyridin-2-yl)-piperazine | CN1CCN(CC1)C1=NC(=CC=C1)C=1SC=CC1 | C14H17N3S
